US06599902B2
5-Formyl-4-methyl-1H-pyrrole-3-carboxylic acid (1.00 g, 6.54 mmol) reacted with cis-2,6-dimethylpiperazine (822 mg, 7.19 mmol) to give 1.43 g (88%) of 4-[(3R,5S)-3,5-dimethyl-piperazine-1-carbonyl]-3-methyl-1H-pyrrole-2-carbaldehyde.

reactant | 5-Formyl-4-methyl-1H-pyrrole-3-carboxylic acid | 6.54 mmol, 1.00 g | C(=O)C1=C(C(=CN1)C(=O)O)C | C7H7NO3
reactant | cis-2,6-dimethylpiperazine | 7.19 mmol, 822 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
product | 4-[(3R,5S)-3,5-dimethyl-piperazine-1-carbonyl]-3-methyl-1H-pyrrole-2-carbaldehyde | 1.43 g, 88% | C[C@@H]1CN(C[C@@H](N1)C)C(=O)C=1C(=C(NC1)C=O)C | C13H19N3O2
